US05443698
To a reaction flask equipped with a mechanical agitator and thermometer was charged 10.0 g (0,069 mole) of 2-ethylhexanoic acid, 10.0 g mineral spirit, 80.0 g water and 0.40 g tetraethylammonium chloride. Iron foil was used as the anode and a graphite rod as the cathode. After passing 11,109 coulombs of direct current, 3.43 g (0,061 mole) of iron was consumed. The precipitated brown solid was then filtered and dried, and found to contain 45.60% iron. The organic layer was separated from the aqueous phase and was dried to give a brown solution of iron octoate in mineral spirits containing 14.10% iron.

reactant | 2-ethylhexanoic acid | 0,069 mole, 10.0 g | C(C)C(C(=O)O)CCCC | C8H16O2
reactant | Iron | [Fe] | Fe
reactant | iron | 0,061 mole, 3.43 g | [Fe] | Fe
catalyst | tetraethylammonium chloride | 0.40 g | [Cl-].C(C)[N+](CC)(CC)CC
solvent | water | 80.0 g | O | H2O
product | iron octoate | CCCCC(CC)C(=O)[O-].CCCCC(CC)C(=O)[O-].CCCCC(CC)C(=O)[O-].[Fe+3] | InChI=1S/3C8H16O2.Fe/c3*1-3-5-6-7(4-2)8(9)10;/h3*7H,3-6H2,1-2H3,(H,9,10);/q;;;+3/p-3
